*CP

.include sky130nm.lib

xm43 3 2 1 1 sky130_fd_pr__pfet_01v8 l=150n w=5.4u 
xm44 out downb 3 1 sky130_fd_pr__pfet_01v8 l=150n w=420n 
xm31 out up 7 0 sky130_fd_pr__nfet_01v8 l=150n w=420n
xm32 7 8 0 0 sky130_fd_pr__nfet_01v8 l=150n w=5.4u

xm33 2 2 1 1 sky130_fd_pr__pfet_01v8 l=150n w=420n 
xm34 8 8 0 0 sky130_fd_pr__nfet_01v8 l=150n w=420n

xm35 9 down 3 1 sky130_fd_pr__pfet_01v8 l=150n w=5400n 
xm36 9 9 0 0 sky130_fd_pr__nfet_01v8 l=150n w=420n

xm37 10 10 1 1 sky130_fd_pr__pfet_01v8 l=150n w=420n 
xm38 10 upb 7 0 sky130_fd_pr__nfet_01v8 l=150n w=5400n

xm39 1 down downb 1 sky130_fd_pr__pfet_01v8 l=150n w=720n 
xm40 0 down downb 0 sky130_fd_pr__nfet_01v8 l=150n w=360n 

xm41 1 up upb 1 sky130_fd_pr__pfet_01v8 l=150n w=720n 
xm42 0 up upb 0 sky130_fd_pr__nfet_01v8 l=150n w=360n 
v1 1 0 1.8	
v2 up 0 0
*PULSE 0 1.8 1n 6p 6p 100ns 200ns
v3 down 0 0

r1 out rc 200
c1 rc 0 64f
c2 out 0 10f

.ic v(out) = 0
.ic c(out) = 0
.control
tran 1ns 1us
plot v(out) C(out)
*plot v(6) V(Clk)+2
* v(D) v(Clk) v(6)
.endc

